US05462933
2,4-Diisopropyl-6-bromophenol
1 g of iron powder and then, dropwise, 101 g (32.2 ml, 0.63 mol) of bromine are added in the course of 90 minutes to a solution of 102.3 g (0.57 mol) of 2,4-diisopropylphenol in 900 ml of glacial acetic acid at 95° C. The mixture is stirred for a further hour at 100° C. and cooled, the reaction mixture is partitioned between toluene and water and the toluene phase is washed with NaHCO3 solution. It is dried, filtered and concentrated, and the residue is distilled in a high vacuum. 125 g of the title compound is obtained as a pale yellow oil, b.p. 85° C./0.15 torr.

reactant | bromine | 0.63 mol, 32.2 ml, 101 g | BrBr | Br2
reactant | 2,4-diisopropylphenol | 0.57 mol, 102.3 g | C(C)(C)C1=C(C=CC(=C1)C(C)C)O | C12H18O
solvent | acetic acid | 900 ml | C(C)(=O)O | C2H4O2
catalyst | iron | 1 g | [Fe] | Fe
product | 2,4-Diisopropyl-6-bromophenol | 125 g | C(C)(C)C1=C(C(=CC(=C1)C(C)C)Br)O | C12H17BrO
